*
L1 N001 0 100m
L2 N001 0 200m
L3 N001 0 150m
L4 N001 0 50m
L5 N001 0 100m
L6 N001 0 150m
L7 N001 0 50m
L8 N001 0 50m
L9 N001 0 150m
L10 N001 0 100m
R1 0 N001 100
V1 N001 0 SINE(0 10 1k)
.tran 0 1m 0 1u
.backanno
.end
